US05922919
2,6-Dichloro-4'-methoxy-2'-methyl-5'-phenoxy-benzophenone
A mixture of 2,6-dichlorobenzoylchloride (5.24 g; 25 mmol), 3-methylanisole (2.44 g; 20 mmol) and iron(III)chloride (20 mg) is heated to 100° C. for 45 minutes with stirring. After cooling, toluene is added, the mixture is shaken with water, the organic phase is dried and the solvent is evaporated. The reaction product is purified chromatograpically (flash column with 70 g of silicagel; elution with petrolether/toluene changing from 75:25 to 40:60 (v/v)). After evaporation the residue from the main fraction is treated with petrolether to give white crystalls (1.33 g; 22.5% y); mp. 89° C.

reactant | 2,6-dichlorobenzoylchloride | 25 mmol, 5.24 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | 3-methylanisole | 20 mmol, 2.44 g | CC=1C=C(C=CC1)OC | C8H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
catalyst | iron(III)chloride | 20 mg | [Fe](Cl)(Cl)Cl
product | 2,6-Dichloro-4'-methoxy-2'-methyl-5'-phenoxy-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)OC2=CC=CC=C2)OC)C)C(=CC=C1)Cl | C21H16Cl2O3
